US07479502B2
Proceeding as in Reference 12, but substituting methyl 3-bromo-5-formyl-4-hydroxyphenylacetate (27.32 g, 0.10 mole) and 2-methoxyethoxymethyl chloride (0.125 mol, 14.3 mL), gave methyl 3-bromo-5-formyl-4(2-methoxyethoxymethoxy)-phenylacetate (31.4 g (87%).

reactant | methyl 3-bromo-5-formyl-4-hydroxyphenylacetate | 0.10 mole, 27.32 g | BrC=1C=C(C=C(C1O)C=O)CC(=O)OC | C10H9BrO4
reactant | 2-methoxyethoxymethyl chloride | 0.125 mol, 14.3 mL | COCCOCCl | C4H9ClO2
product | methyl 3-bromo-5-formyl-4(2-methoxyethoxymethoxy)-phenylacetate | BrC=1C=C(C=C(C1OCOCCOC)C=O)CC(=O)OC | C14H17BrO6
